US04160837
7.0 g (0.036 mol) of 1-methanesulphonyl-hexahydro-4,5-epoxy-1H-azepine are dissolved, together with 8.9 g (0.073 mol) of 2,3-dimethyl-phenol, with 36.6 ml of 2 N sodium hydroxide solution (0.013 mol) in 200 ml of acetonitrile. The reaction mixture is heated under reflux for 5 days, then cooled to room temperature and concentrated under a water pump vacuum. The residue is then dissolved in 200 ml of methylene chloride and the organic phase is washed with three times 100 ml of 2 N sodium hydroxide solution and then with water, dried over sodium sulphate and evaporated under a water pump vacuum. The resulting crude product is purified by preparative thick layer chromatography (100×20 cm silica gel plates, layer thickness 1.5 mm). Crystalline trans-4-hydroxy-5-(2,3-dimethylphenoxy)-1-methanesulphonyl-hexahydro-1H-azepine with a melting point of 112°-115° is obtained by elution with a 3:1 mixture of toluene/ethyl acetate.

reactant | 1-methanesulphonyl-hexahydro-4,5-epoxy-1H-azepine | 0.036 mol, 7.0 g | CS(=O)(=O)N1CCC2C(CC1)O2 | C7H13NO3S
reactant | 2,3-dimethyl-phenol | 0.073 mol, 8.9 g | CC1=C(C=CC=C1C)O | C8H10O
reactant | sodium hydroxide | 0.013 mol, 2 N, 36.6 ml | [OH-].[Na+]
solvent | acetonitrile | 200 ml | C(C)#N | C2H3N
product | trans-4-hydroxy-5-(2,3-dimethylphenoxy)-1-methanesulphonyl-hexahydro-1H-azepine | O[C@@H]1CCN(CC[C@H]1OC1=C(C(=CC=C1)C)C)S(=O)(=O)C | C15H23NO4S
